US06482951B2
To a stirred solution of borane tetrahydrofuran complex (45 mL of 1.5 M solution in tetrahydrofuran/diethyl ether) cooled to 0° C. under nitrogen was added a solution of 4,5-dichlorophthalic acid (5.013 g; 21.1 mmol) in tetrahydrofuran (35 mL) dropwise over a 20 minute period. At the end of the addition, the mixture was allowed to stir for 2.5 h at 0° C. The mixture was quenched by slow addition of methanol until gas evolution ceased. The mixture was allowed to stir at room temperature for 30 minutes and the solvent removed in vacuo. The residue was taken up into ethyl acetate, washed with saturated sodium bicarbonate solution followed by brine solution. The organic extract was dried (sodium sulfate), filtered and concentrated in vacuo to give 4.41 g (100%) of 4,5-dichloro-1,2-di-hydroxymethyl benzene as a white solid: ES-LRMS calcd for C8H7C12O2 (M+−1) 205, found 205.

reactant | borane tetrahydrofuran | 1.5 M, 45 mL | O1CCCC1.B
reactant | 4,5-dichlorophthalic acid | 21.1 mmol, 5.013 g | ClC=1C=C(C(C(=O)O)=CC1Cl)C(=O)O | C8H4Cl2O4
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 4,5-dichloro-1,2-di-hydroxymethyl benzene | 4.41 g, 100% | ClC1=CC(=C(C=C1Cl)CO)CO | C8H8Cl2O2
